US06063782
Methyl 3-formyl-4,5-dimethyl-1-(2,2,2-trifluoroethyl)pyrrole-2-carboxylate
The title compound was prepared as pale brown crystals in 5.5% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 1,1,1-trifluoro-2-iodoethane.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 1,1,1-trifluoro-2-iodoethane | FC(CI)(F)F | C2H2F3I
product | Methyl 3-formyl-4,5-dimethyl-1-(2,2,2-trifluoroethyl)pyrrole-2-carboxylate | C(=O)C1=C(N(C(=C1C)C)CC(F)(F)F)C(=O)OC | C11H12F3NO3
